US06214877B1
step 3 [3,3″-Diformyl-5′-(8-phenyl-octylcarbamoyl)-[1,1′;3′1″]terphenyl-2′-yl]methyl ether
The title compound was prepared as a solid (0.479 g, 75%) from 2,6-diiodo-4-(8-phenyl-octylcarbamoyl)phenyl methyl ether using 3-formylbenzeneboronic acid and a procedure similar to step 3 of Example 93; 1H NMR (DMSO-d6) δ1.21-1.35 (m, 8H), 1.46-1.60 (m, 4H), 2.47-2.58 (m, 2H), 3.13 (s, 3H), 3.21-3.32 (m, 2H), 7.09-7.19 (m, 3H), 7.21-7.30 (m, 2H), 7.54 (t, J=7.5 Hz, 2H), 7.94-8.03 (m, 6H), 8.17 (s, 2H), 8.61 (t, J=5.6 Hz, 1H), 10.14 (s, 2H); mass spectrum [(+) ESI), m/z 548 (M+H)+, 570 (M+Na)+.

reactant | 2,6-diiodo-4-(8-phenyl-octylcarbamoyl)phenyl methyl ether | COC1=C(C=C(C=C1I)C(NCCCCCCCCC1=CC=CC=C1)=O)I | C22H27I2NO2
reactant | 3-formylbenzeneboronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | [3,3″-Diformyl-5′-(8-phenyl-octylcarbamoyl)-[1,1′;3′1″]terphenyl-2′-yl]methyl ether | C(=O)C=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C=O)OC | C36H37NO4
